US06750189B1
Homo-condensate of L-lysine
L-lysine monohydrate (821 g, 5.0 mol) and sodium hypophosphite (0.1 g) are placed in a pressurizable 2.5 l reaction vessel and blanketed with nitrogen. The reaction vessel is then sealed and the contents heated at 200° C. for 6 h, during which time the internal pressure rose to 11.2 bar. The pressure is then slowly released to remove water from the reaction mixture. The reaction temperature is maintained at 200° C. for 0.5 h to remove residual amounts of solvent and volatile products. The reaction mixture is then stirred at 200° C. for 25 minutes at 20 mbar of pressure, after which the viscous melt is cooled to 115° C., removed from the reaction vessel and subsequently cooled to ambient temperature. The resulting lysine homo-condensate has a Mw of 4300 daltons.

reactant | L-lysine monohydrate | 5.0 mol, 821 g | O.N[C@@H](CCCCN)C(=O)O
reactant | sodium hypophosphite | 0.1 g | [PH2](=O)[O-].[Na+]
product | L-lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
